US04225723
(c) 1-[2-cyano-2-(4-chlorophenyl)propyl]imidazole-hydrochloride
A mixture of 2-cyano-2-(4-chlorophenyl)propyl methane sulfonate (63 g., 0.23 mole), imidazole (62.6 g., 0.9 mole) and N,N-dimethylformamide (3 ml.) is heated with stirring at 130° C. for 24 hours. The reaction mixture is poured into water and extracted with ether. The combined ether extracts are washed with water and dried over magnesium sulfate. Into the ethereal solution is bubbled dry hydrogen chloride gas. The white solid which precipitate is collected and dried to give 38 g. (58.6%) of the expected product, which is identified by nmr.

reactant | 2-cyano-2-(4-chlorophenyl)propyl methane sulfonate | 0.23 mole, 63 g | CS(=O)(=O)OCC(C)(C1=CC=C(C=C1)Cl)C#N | C11H12ClNO3S
reactant | imidazole | 0.9 mole, 62.6 g | N1C=NC=C1 | C3H4N2
reactant | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-[2-cyano-2-(4-chlorophenyl)propyl]imidazole-hydrochloride | 58.6% | Cl.C(#N)C(CN1C=NC=C1)(C)C1=CC=C(C=C1)Cl | InChI=1S/C13H12ClN3.ClH/c1-13(8-15,9-17-7-6-16-10-17)11-2-4-12(14)5-3-11;/h2-7,10H,9H2,1H3;1H
